US05821239
4-Propylamino-3-pyridinol N,N-diethylcarbamate
A solution of propionic acid (58.5 ml) in 100 ml of benzene was treated with NaBH4 (9.6 g added portionwise). After the frothing subsided, 4-amino-3-pyridinol N,N-diethylcarbamate (5.30 g) was added and the mixture was heated at 80° C. for 2 hours. The reaction mixture was poured into a dilute NaOH solution and the aqueous phase was extracted with ethyl acetate (3×). The combined organics were washed with water and dried (saturated NaCl, MgSO4). The desired amine was purified via flash chromatography to give 3.2 g of solid, m.p. 60°-70° C. This product was combined with a crop obtained from another run and recrystallized from hexane to give analytically pure material, m.p. 75°-78° C.

reactant | propionic acid | 58.5 ml | C(CC)(=O)O | C3H6O2
reactant | NaBH4 | [BH4-].[Na+]
reactant | 4-amino-3-pyridinol N,N-diethylcarbamate | 5.30 g | C(C)N(C(=O)OC=1C=NC=CC1N)CC | C10H15N3O2
reactant | NaOH | [OH-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-Propylamino-3-pyridinol N,N-diethylcarbamate | 3.2 g | C(C)N(C(=O)OC=1C=NC=CC1NCCC)CC | C13H21N3O2
